US08648201B2
5 ml of 4M HCl in dioxane are added to 41.8 mg (0.091 mmol) of tert-butyl 4-{4-[6-amino-5-(1H-benzimidazol-2-yl)pyridin-3-yl]pyrazol-1-yl}piperidine-1-carboxylate, and the mixture is stirred at room temperature for 14 h. The reaction mixture is evaporated to dryness, and water is added. The aqueous phase is adjusted to pH>10 using 2N NaOH and extracted 3× with ethyl acetate. The organic phases are dried using sodium sulfate, filtered and evaporated. The residue is lyophilised, giving 3-(1H-benzimidazol-2-yl)-5-(1-piperidin-4-yl-1H-pyrazol-4-yl)pyridin-2-ylamine as free base; HPLC-MS [M+H]+ 360.2;

reactant | HCl | 4M, 5 ml | Cl | ClH
reactant | tert-butyl 4-{4-[6-amino-5-(1H-benzimidazol-2-yl)pyridin-3-yl]pyrazol-1-yl}piperidine-1-carboxylate | 0.091 mmol, 41.8 mg | NC1=C(C=C(C=N1)C=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)C1=NC2=C(N1)C=CC=C2 | C25H29N7O2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-(1H-benzimidazol-2-yl)-5-(1-piperidin-4-yl-1H-pyrazol-4-yl)pyridin-2-ylamine | N1C(=NC2=C1C=CC=C2)C=2C(=NC=C(C2)C=2C=NN(C2)C2CCNCC2)N | C20H21N7
